US07375115B2
[2-[1-[2-[4-[N-(5-Methylpyridin-2-yl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]acetamido]acetic acid
Ethyl [2-[1-[2-[4-[N-(5-methylpyridin-2-yl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]acetamido]acetate (221 mg) was dissolved in methanol (5 mL). A 2N aqueous sodium hydroxide solution (2.1 mL) was added to the solution, and it was stirred at room temperature for 16 hours. The solution was neutralized by addition of acetic acid (0.25 mL) (to pH of about 6). The solvent was distilled off under reduced pressure, and the resulting residue was extracted with 20% ethanol/chloroform. The organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to give the title compound (170 mg).

reactant | Ethyl [2-[1-[2-[4-[N-(5-methylpyridin-2-yl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]acetamido]acetate | 221 mg | CC=1C=CC(=NC1)N(C(=O)C=1OC=CC1)C1CCN(CC1)CCC1(CCCCC1)CC(=O)NCC(=O)OCC | C30H42N4O5
reactant | sodium hydroxide | 2N, 2.1 mL | [OH-].[Na+]
reactant | acetic acid | 0.25 mL, pH of about 6 | C(C)(=O)O | C2H4O2
solvent | methanol | 5 mL | CO | CH4O
product | [2-[1-[2-[4-[N-(5-Methylpyridin-2-yl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]acetamido]acetic acid | 170 mg | CC=1C=CC(=NC1)N(C(=O)C=1OC=CC1)C1CCN(CC1)CCC1(CCCCC1)CC(=O)NCC(=O)O | C28H38N4O5
